Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___
 
___ Complaint:
left knee hematoma
 
Major Surgical or Invasive Procedure:
Left knee irrigation and debridement and hematoma evacuation

 
History of Present Illness:
___ y/o female s/p left total knee revision ___ presents for 
superficial wound dehiscence with acute renal failure now s/p 
left knee I&D and hematoma evaluation
 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression 
9. anxiety  
10. obesity  
11. sleep apnea 
12. migraines
13. GERD
14. chronic lower back pain
 
Social History:
___
Family History:
Father's health unknown except potential h/o stomach cancer.
Uncle has unknown cancer.
Mother living at ___ with arthritis and osteoporosis.
Aunt recently passed at ___ ___nd heart disease.
Grandmother with breast cancer.
No siblings.
Children healthy.
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Aquacel dressing clean, dry and intact 
* Scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm

 
Pertinent Results:
___ 12:30PM BLOOD WBC-9.5 RBC-3.06* Hgb-8.6* Hct-26.1* 
MCV-85 MCH-28.1 MCHC-33.0 RDW-14.7 RDWSD-45.4 Plt ___
___ 09:00AM BLOOD WBC-9.2 RBC-2.56* Hgb-7.0* Hct-22.0* 
MCV-86 MCH-27.3 MCHC-31.8* RDW-15.1 RDWSD-47.2* Plt ___
___ 07:30AM BLOOD WBC-11.0* RBC-2.83* Hgb-7.7* Hct-25.0* 
MCV-88 MCH-27.2 MCHC-30.8* RDW-15.0 RDWSD-48.8* Plt ___
___ 08:20AM BLOOD WBC-9.7# RBC-2.78* Hgb-7.6* Hct-24.3* 
MCV-87 MCH-27.3 MCHC-31.3* RDW-15.1 RDWSD-48.5* Plt ___
___ 08:25AM BLOOD WBC-4.6 RBC-3.17* Hgb-8.7* Hct-27.3* 
MCV-86 MCH-27.4 MCHC-31.9* RDW-15.0 RDWSD-48.1* Plt ___
___ 03:00PM BLOOD WBC-5.5 RBC-3.33* Hgb-9.0* Hct-28.2* 
MCV-85 MCH-27.0 MCHC-31.9* RDW-15.0 RDWSD-46.3 Plt ___
___ 08:00AM BLOOD WBC-5.2 RBC-3.33* Hgb-9.1* Hct-28.4* 
MCV-85 MCH-27.3 MCHC-32.0 RDW-14.9 RDWSD-46.3 Plt ___
___ 08:15AM BLOOD WBC-5.0 RBC-3.50* Hgb-9.3* Hct-29.8* 
MCV-85 MCH-26.6 MCHC-31.2* RDW-14.9 RDWSD-46.6* Plt ___
___ 07:47PM BLOOD WBC-7.8 RBC-3.68* Hgb-10.0* Hct-30.9* 
MCV-84 MCH-27.2 MCHC-32.4 RDW-14.8 RDWSD-45.4 Plt ___
___ 04:43PM BLOOD WBC-8.1 RBC-3.80* Hgb-10.4* Hct-31.7* 
MCV-83 MCH-27.4 MCHC-32.8 RDW-14.9 RDWSD-45.6 Plt ___
___ 12:30PM BLOOD Neuts-69.5 Lymphs-18.5* Monos-7.3 Eos-3.9 
Baso-0.3 NRBC-0.2* Im ___ AbsNeut-6.56* AbsLymp-1.75 
AbsMono-0.69 AbsEos-0.37 AbsBaso-0.03
___ 09:00AM BLOOD Neuts-67.3 ___ Monos-9.0 Eos-3.9 
Baso-0.3 Im ___ AbsNeut-6.18* AbsLymp-1.75 AbsMono-0.83* 
AbsEos-0.36 AbsBaso-0.03
___ 07:47PM BLOOD Neuts-64.8 ___ Monos-9.1 Eos-1.9 
Baso-0.8 Im ___ AbsNeut-5.02# AbsLymp-1.78 AbsMono-0.71 
AbsEos-0.15 AbsBaso-0.06
___ 12:30PM BLOOD Plt ___
___ 09:00AM BLOOD Plt ___
___ 07:30AM BLOOD Plt ___
___ 08:20AM BLOOD Plt ___
___ 08:25AM BLOOD Plt ___
___ 08:25AM BLOOD ___ PTT-34.4 ___
___ 10:00PM BLOOD PTT-75.6*
___ 03:00PM BLOOD Plt ___
___ 03:00PM BLOOD ___ PTT-97.7* ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-114.7* ___
___ 01:00AM BLOOD ___ PTT-95.7* ___
___ 06:50PM BLOOD ___ PTT-81.4* ___
___ 08:15AM BLOOD Plt ___
___ 08:15AM BLOOD ___ PTT-29.3 ___
___ 07:47PM BLOOD Plt ___
___ 04:43PM BLOOD Plt ___
___ 12:30PM BLOOD Glucose-106* UreaN-5* Creat-0.6 Na-141 
K-4.2 Cl-106 HCO3-24 AnGap-11
___ 09:00AM BLOOD Glucose-98 UreaN-6 Creat-0.7 Na-143 K-4.3 
Cl-108 HCO3-23 AnGap-12
___ 07:30AM BLOOD Creat-0.8
___ 08:20AM BLOOD Glucose-107* UreaN-10 Creat-0.9 Na-145 
K-4.9 Cl-109* HCO3-23 AnGap-13
___ 08:25AM BLOOD Glucose-93 UreaN-23* Creat-1.0 Na-147* 
K-5.0 Cl-112* HCO3-23 AnGap-12
___ 03:00PM BLOOD Glucose-110* UreaN-42* Creat-1.5* Na-142 
K-5.0 Cl-108 HCO3-20* AnGap-14
___ 08:00AM BLOOD Glucose-111* UreaN-57* Creat-2.1*# Na-145 
K-4.9 Cl-108 HCO3-21* AnGap-16
___ 06:50PM BLOOD Glucose-114* UreaN-77* Creat-4.4*# Na-144 
K-4.8 Cl-106 HCO3-21* AnGap-17*
___ 08:15AM BLOOD Glucose-104* UreaN-107* Creat-9.1*# 
Na-142 K-4.8 Cl-101 HCO3-20* AnGap-21*
___ 07:47PM BLOOD Glucose-137* UreaN-119* Creat-14.8* 
Na-136 K-4.8 Cl-90* HCO3-22 AnGap-24*
___ 04:43PM BLOOD Glucose-118* UreaN-117* Creat-15.0*# 
Na-136 K-5.2* Cl-89* HCO3-22 AnGap-25*
___ 12:30PM BLOOD ALT-7 AST-10 AlkPhos-96 TotBili-0.3
___ 09:00AM BLOOD ALT-8 AST-13 AlkPhos-84
___ 08:15AM BLOOD ALT-8 AST-6 LD(LDH)-349* AlkPhos-96 
TotBili-0.3
___ 12:30PM BLOOD Calcium-8.1* Phos-2.5* Mg-1.5*
___ 09:00AM BLOOD Calcium-8.2* Phos-2.5* Mg-1.3*
___ 08:20AM BLOOD Calcium-8.3* Phos-2.0* Mg-1.5*
___ 08:25AM BLOOD Calcium-8.6 Phos-2.2* Mg-1.5*
___ 03:00PM BLOOD Calcium-8.9 Phos-2.3* Mg-2.2
___ 08:00AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.7
___ 06:50PM BLOOD Calcium-8.9 Phos-4.6* Mg-2.0
___ 08:15AM BLOOD Albumin-3.7 Calcium-9.3 Phos-7.7* Mg-2.4
___ 07:47PM BLOOD Calcium-9.9 Phos-10.8* Mg-2.8*
___ 04:43PM BLOOD Calcium-10.2 Phos-11.2* Mg-2.8*
___ 12:30PM BLOOD CRP-159.3*
___ 09:00AM BLOOD CRP-168.5*
___ 07:47PM BLOOD CRP-46.9*
___ 04:12PM BLOOD Vanco-16.9
___ 09:00AM BLOOD Vanco-11.8
___ 07:15PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 07:15PM URINE Blood-SM* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR*
___ 07:15PM URINE RBC-2 WBC-4 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 07:15PM URINE CastHy-14*
___ 07:15PM URINE AmorphX-RARE*
___ 07:15PM URINE Mucous-RARE*
___ 08:50PM URINE Eos-NEGATIVE  
___ 08:50PM URINE Hours-RANDOM UreaN-435 Creat-275 Na-33 
Cl-<20 TotProt-162 Phos-59.5 Prot/Cr-0.6*
___ 08:50PM URINE Osmolal-373
___ 12:16PM JOINT FLUID TNC-932* ___ Polys-84* 
___ Monos-6 Other-2*
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

On HD #1, her creatinine was 15.0 on admission. A repeat 
creatinine was obtained which revealed a creatinine of 14.8. 
Nephrology was consulted and recommended getting a renal 
ultrasound which revealed no hydronephrosis or stones.  They 
also recommended obtaining urine lytes, a urinalysis, starting 
IV fluids, and inserting a foley catheter to monitor input and 
output.  Medications that were renally excreted were 
discontinued and the Ancef was renally dosed.  Patient's knee 
was aspirated by interventional radiology, which demonstrated 
932 WBC, ___ RBC, 84 poly's. The cultures, gram stain and 
crystals were negative. Her WBC was 8.1 and the differential was 
negative. 

On HD #2, her creatinine was downtrending 9.1 and 4.4 when 
repeated later in the day. She was started on IV heparin given 
kidney function instead of a Lovenox bridge. Nephrology 
recommended continuing IV fluids and monitoring I&Os. Her BMP 
was checked every 12 hours. 

On HD #3, her creatinine continued to downtrend to 2.1, and then 
to 1.5 when repeated later in the day. 

On HD#4, ___, she underwent irrigation and debridement of 
her left knee and hematoma evacuation.  Tissue was sent for 
culture.  Eliquis was restarted on POD#1.  Her medications were 
all dosed back to baseline POD#1 since her creatinine had 
normalized. 

On HD#5/POD#1, her magnesium was 1.5 and phosphorous was 2.0, 
which both were repleted. She was taken off the PCA and started 
on oral pain medications.  Infectious disease was consulted when 
her OR cultures came back positive and recommended to switch 
Ancef to Cefipime.

On HD#6/POD#2, labs continued to be monitored.  Infectious 
disease recommended additional labs to be ordered and cultures 
to be followed.  They recommended continuing the Vancomycin and 
Cefepime.

On HD#7/POD#3, patient was transfused 2 units of red blood cells 
for hematocrit of 22. Vancomycin was increased from 1,500mg q12h 
to q8h due to sub-therapeutic trough levels of 11.8. Patient had 
a PICC line placed with consent.

On HD#8/POD#4, patient was seen by ID with final recommendations 
regarding discharge home with IV antibiotics. She received her 
first dose of Ertapenem 1g while inpatient and tolerated well. 
She had a vanco trough drawn prior to discharge, which was 
therapeutic at 16.9. She will be discharged on IV Ertapenem and 
Vancomycin.

At the time of discharge the patient was tolerating a regular 
diet and feeling well.  The patient was afebrile with stable 
vital signs.  The patient's hematocrit was acceptable and pain 
was adequately controlled on an oral regimen. The operative 
extremity was neurovascularly intact and the dressing was 
intact. 

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity.   

Ms. ___ is discharged to home with services in stable 
condition.

 
Medications on Admission:
1. amLODIPine 10 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. Chlorthalidone 50 mg PO DAILY 
4. Cyclobenzaprine 10 mg PO BID:PRN muscle spasms 
5. Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
6. Leuprolide Acetate 11.25 mg IM EVERY 3 MONTHS 
7. Lisinopril 40 mg PO DAILY 
8. LORazepam 1 mg PO DAILY:PRN anxiety 
9. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
10. QUEtiapine Fumarate 400 mg PO QHS 
11. Tizanidine 8 mg PO QHS 
12. Zolpidem Tartrate 5 mg PO QHS 

 
Discharge Medications:
1.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
2.  Vancomycin 1500 mg IV Q 12H Duration: 6 Weeks 
3.  Acetaminophen 1000 mg PO Q8H  
4.  amLODIPine 10 mg PO DAILY  
5.  Apixaban 5 mg PO BID  
6.  Atenolol 100 mg PO DAILY  
7.  Chlorthalidone 50 mg PO DAILY  
8.  Cyclobenzaprine 10 mg PO BID:PRN muscle spasms  
9.  Leuprolide Acetate 11.25 mg IM EVERY 3 MONTHS  
10.  Lisinopril 40 mg PO DAILY  
11.  LORazepam 1 mg PO DAILY:PRN anxiety  
12.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
13.  QUEtiapine Fumarate 400 mg PO QHS  
14.  Tizanidine 8 mg PO QHS  
15.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
left knee hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in three (3) weeks.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc) until cleared by 
your physician.
 
8. ANTICOAGULATION: Please continue your Eliquis 5 mg daily to 
help prevent deep vein thrombosis (blood clots).  

9. WOUND CARE: Please remove Aquacel dressing on POD#7 after 
surgery (___). It is okay to shower after surgery after 5 
days but no tub baths, swimming, or submerging your incision 
until after your four (4) week checkup. Please place a dry 
sterile dressing on the wound after aqaucel is removed each day 
if there is drainage, otherwise leave it open to air. Check 
wound regularly for signs of infection such as redness or thick 
yellow drainage.  Staples will be removed by your doctor at 
follow-up appointment approximately 3 weeks after surgery.
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, and wound checks.
 
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize with assistive devices (___) if 
needed.  Range of motion at the knee as tolerated. No strenuous 
exercise or heavy lifting until follow up appointment.

12. PICC CARE: Per protocol

13. WEEKLY LABS: draw on ___ and send result to ID RNs 
at: ___ R.N.s at ___. 
 - CBC/DIFF
 - CHEM 7
 - LFTS
 - ESR/CRP
 - Vanco trough

**All questions regarding outpatient parenteral antibiotics 
should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed.**
Physical Therapy:
WBAT LLE
No range of motion restrictions, in knee immobilizer while in 
bed
Assistive device when ambulating
Mobilize frequently
Treatments Frequency:
remove aquacel POD#7 (___) after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed
ice
staple removal and replace with steri-strips (at follow up 
visit)
 
Followup Instructions:
___